US09260363B2
Synthesis of 2-(10,10-dimethyl-10H-indeno[1,2-b]triphenylen-12-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
A mixture of 10.7 g (25.3 mmol) of 12-bromo-10,10-dimethyl-10H-Indeno[1,2-b]triphenylene, 7.7 g (30.3 mmol) of bis(pinacolato) diboron, 0.3 g (0.26 mmol) of Tetrakis(triphenylphosphine)Palladium, 7.4 g (75.4 mmol) of potassium acetate, and 300 ml 1,4 dioxane was degassed and placed under nitrogen, and then heated at 90° C. for 16 h. After the reaction finish, the mixture was allowed to cool to room temperature. The organic phase separated and washed with ethyl acetate and water. After drying over magnesium sulfate, the solvent was removed in vacuo. The residue was purified by column chromatography on silica (hexane-dichloromethane) to give product (9.5 g, 20.2 mmol, 80%) as a light-yellow solid. 1H NMR (CDCl3, 400 MHz): chemical shift(ppm) 9.03 (s, 1H), 8.81 (d, J=7.84 Hz, 1H), 8.77 (d, J=7.88 Hz, 1H), 8.70˜8.67 (m, 3H), 8.02˜7.93 (m, 3H), 7.71˜7.67 (m, 4H), 1.69 (s, 6H), 1.42 (s, 12H)

reactant | 12-bromo-10,10-dimethyl-10H-Indeno[1,2-b]triphenylene | 25.3 mmol, 10.7 g | BrC=1C=C2C=C3C(C=C4C5=CC=CC=C5C5=CC=CC=C5C4=C3)=C2C(C1)(C)C | C27H19Br
reactant | bis(pinacolato) diboron | 30.3 mmol, 7.7 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 75.4 mmol, 7.4 g | C(C)(=O)[O-].[K+]
catalyst | Tetrakis(triphenylphosphine)Palladium | 0.26 mmol, 0.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4 dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | 2-(10,10-dimethyl-10H-indeno[1,2-b]triphenylen-12-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 20.2 mmol, 9.5 g, 80% | CC1(C=C(C=C2C=C3C(C=C4C5=CC=CC=C5C5=CC=CC=C5C4=C3)=C12)B1OC(C(O1)(C)C)(C)C)C | C33H31BO2
